US07566724B2
In the same manner as in Reference Example 6, 4-iodophenol (220 mg) and 5-ethyl-2-chloropyrimidine (0.121 ml) were reacted in the presence of potassium carbonate (415 mg) to obtain 2-(4-iodophenoxy)-5-ethylpyrimidine (256 mg).

reactant | 4-iodophenol | 220 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | 5-ethyl-2-chloropyrimidine | 0.121 ml | C(C)C=1C=NC(=NC1)Cl | C6H7ClN2
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
product | 2-(4-iodophenoxy)-5-ethylpyrimidine | 256 mg | IC1=CC=C(OC2=NC=C(C=N2)CC)C=C1 | C12H11IN2O
